US06900243B2
4-Chloro-2-{[1-[2-(methylamino)ethyl]butyl]thio)benzonitrile hydrochloride
4-Chloro-2-{[1-[2-(methylamino)ethyl]butyl]thio}benzonitrile hydrochloride 2-methoxyethanamine (352 μl, 4.06 mmol) before being heated to 60° C. for 5 days. The mixture was filtered and purified via RP-HPLC on the crude reaction material. The purified compound was then treated with 50% saturated oxalic acid in ether to produce a white powder which was collected via filtration. (378 mg, 15%).

reactant | 4-Chloro-2-{[1-[2-(methylamino)ethyl]butyl]thio}benzonitrile hydrochloride 2-methoxyethanamine | 4.06 mmol, 352 μl | COCCN.Cl.ClC1=CC(=C(C#N)C=C1)SC(CCC)CCNC
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | ether | CCOCC | C4H10O
product | 4-Chloro-2-{[1-[2-(methylamino)ethyl]butyl]thio)benzonitrile hydrochloride | Cl.ClC1=CC(=C(C#N)C=C1)SC(CCC)CCNC | InChI=1S/C14H19ClN2S.ClH/c1-3-4-13(7-8-17-2)18-14-9-12(15)6-5-11(14)10-16;/h5-6,9,13,17H,3-4,7-8H2,1-2H3;1H
